US06127368
10-Ethyl-2-methyl-thiazolo[5,4-g]-β-carboline-9-carboxylic acid isopropyl ester
450 mg of K3Fe(CN)6 is dissolved in 1.8 ml of water, mixed with 1.4 ml of 1N NaOH and cooled to 4° C. 200 mg of 4-ethyl-6-thioacetylamino-β-carboline-3-carboxylic acid isopropyl ester in 4 ml of pyridine is added in drops to this solution and stirred for another 2 hours at this temperature. The reaction mixture is taken up in ethyl acetate, washed with water, dried and concentrated by evaporation. The residue is chromatographed on silica gel with toluene+ethanol=95+5. The desired fractions are concentrated by evaporation and stirred up with ether. 30 mg of the title compound with a melting point of 239-240° C. is obtained.

reactant | NaOH | 1N, 1.4 ml | [OH-].[Na+]
reactant | 4-ethyl-6-thioacetylamino-β-carboline-3-carboxylic acid isopropyl ester | 200 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)NC(C)=S | C19H21N3O2S
solvent | water | 1.8 ml | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 10-Ethyl-2-methyl-thiazolo[5,4-g]-β-carboline-9-carboxylic acid isopropyl ester | 30 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C4C(=C3C2C1CC)SC(=N4)C | C19H19N3O2S
